US09193935B2
2.18: 1-(2,2-Dimethyl-5-phenylpent-3-enyl)-4-ethylbenzene
Starting from phenethyltriphenylphosphonium bromide (2.23 g, 4.98 mmol, 1.0 equiv.), n-BuLi (1.6 M in hexanes, 3.1 mL, 4.98 mmol, 1.0 equiv.) and 3-(4-ethylphenyl)-2,2-dimethylpropanal (1.42 g, 7.48 mmol, 1.5 equiv.), 0.71 g (51%) of the title compound as a colorless oil was obtained after purification by flash chromatography on SiO2 (cyclohexane/EtOAc 997:3).

reactant | phenethyltriphenylphosphonium bromide | 4.98 mmol, 2.23 g, 1.0 equiv. | [Br-].C(CC1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-BuLi | 4.98 mmol, 1.6 M, 3.1 mL, 1.0 equiv. | [Li]CCCC
reactant | 3-(4-ethylphenyl)-2,2-dimethylpropanal | 7.48 mmol, 1.42 g, 1.5 equiv. | C(C)C1=CC=C(C=C1)CC(C=O)(C)C | C13H18O
product | 1-(2,2-Dimethyl-5-phenylpent-3-enyl)-4-ethylbenzene | 0.71 g, 51% | CC(CC1=CC=C(C=C1)CC)(C=CCC1=CC=CC=C1)C | C21H26
